US06486156B1
(2S)-2-{4-[(E)-3-(Imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzamido}-4-methylsulfanylbutyric Acid
A solution of tert-butyl (2S)-2-{4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzamido}-4-methylsulfanylbutyrate (0.2 g; 0.4 mmol) in dichloromethane (2 ml) was treated at 0° C. with TFA (2 ml). The mixture was allowed to warm to ambient temperature and stirred for 1 hour. After evaporation of the solvent, the residue was taken up with distilled water (5 ml); the pH was adjusted to 6 with NH4OH and the solution was purified on reverse phase silica eluting with methanol/ammonium carbonate buffer (2 g/l; pH 7) (40/60) to give the title compound after freeze-drying. Yield: 40%

reactant | tert-butyl (2S)-2-{4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzamido}-4-methylsulfanylbutyrate | 0.4 mmol, 0.2 g | N1(C=NC=C1)C/C=C/C1=CC(=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCSC)C=C1)C1=CC=C(C=C1)F | C28H32FN3O3S
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S)-2-{4-[(E)-3-(Imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzamido}-4-methylsulfanylbutyric Acid | Yield: 40% | N1(C=NC=C1)C/C=C/C1=CC(=C(C(=O)N[C@H](C(=O)O)CCSC)C=C1)C1=CC=C(C=C1)F | C24H24FN3O3S
